data/pmechdb/original/mc_train_fold0/raw/train.txt
C[CH+:20][O:10][Ti-](OC(C)C)(Cl)(Cl)Cl>>C[CH:20]=[O+:10][Ti-](OC(C)C)(Cl)(Cl)Cl 10=20,
C1=C[C:20](=[N:21]C=C1)Cl.[NH2-:10]>>C1=C[C:20]([N-:21]C=C1)([NH2:10])Cl 10=20;20,21=21
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C#N)C4=CC=CC=C4.C1=CC(=CC=C1CC(=O)[O-])N(=O)=O>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.C1=CC=C(C=C1)C(C#N)O[P+:11](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC(=CC=C1CC(=O)[O-])N(=O)=O 10,11=10,20;20,21=21
CS(=[O:10])C.[CH2:20](C=O)[Cl:21]>>CS(=[O+:10][CH2:20]C=O)C.[Cl-:21] 10=20;20,21=21
CCCO[C:20](=[O:21])C(C)C.[OH-:10]>>CCCO[C:20](C(C)C)([OH:10])[O-:21] 10=20;20,21=21
COC1=CC=C(C=C1)[CH2:20][Br:21].C(CO)[NH2:10]>>COC1=CC=C(C=C1)[CH2:20][NH2+:10]CCO.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(CCC(=O)C1=CC=CC=C1)(NC2CCCCC2N)[OH:10].CO>>[H:20][OH+:10]C(C)(CCC(=O)C1=CC=CC=C1)NC2CCCCC2N.CC(=O)[O-:21].CO 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C[C:11](=[CH2:10])[O:12]C.C(CO)O>>[H:20][CH2:10][C:11](=[O+:12]C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C(CO)O 10,11=10,20;20,21=21;12=11
CCO[C:20](C)([OH:10])[O:21]C(=O)C=C>>CCO[C:20](=[OH+:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
CC[CH:20](C)[Br:21].[CH-:10](C#N)C#N>>CC[CH:20](C)[CH:10](C#N)C#N.[Br-:21] 10=20;20,21=21
[B-:13]1(OC(C(O1)(C)C)(C)C)([CH2:12][C:11](=[CH2:10])C(=O)OC)[O+:21]=[CH:20]C2=C(C=CS2)C=C>>[B:13]1(OC(C(O1)(C)C)(C)C)[O:21][CH:20]([CH2:10][C:11](=[CH2:12])C(=O)OC)C2=C(C=CS2)C=C 10,11=10,20;20,21=21;12,13=11,12
[H:20][OH+:21]C1(C(C2=C(CO1)C(=O)N3CC4=C(C5=C(C=CC(=C5)CCCC(C)C)N=C4C3=C2)C(C)CC)(CC)O)O.[OH2:10]>>CCC(C)C1=C2CN3C(=CC4=C(C3=O)COC(C4(CC)O)(O)[OH:21])C2=NC5=C1C=C(C=C5)CCCC(C)C.[H:20][OH2+:10] 10=20;20,21=21
CC[Si](CC)(CC)OC1(CCCC1CC(OC)[O:10]C)C2=CC3CCCC3C2.Cl[Sn:20](Cl)(Cl)Cl>>CC[Si](CC)(CC)OC1(CCCC1CC(OC)[O+:10](C)[Sn-:20](Cl)(Cl)(Cl)Cl)C2=CC3CCCC3C2 10=20,
[H:20][O:21]S(=O)(=O)O.C(C(=[O:10])NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O)([N+](=O)[O-])[N+](=O)[O-]>>[H:20][O+:10]=C(C([N+](=O)[O-])[N+](=O)[O-])NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CCC1(CC(C=CC1=O)(C)C)C.C[O-:10]>>[H:20][O:10]C.CC1(CC(C(=O)C=C1)(C)CC[C:22](=[CH2:21])[O-:23])C 10=20;22,23=23;20,21=21,22
CCCC=[O:10].[Na+:20].[BH4-]>>CCCC=[O+:10][Na:20].[BH4-] 10=20,
[Li:20][OH+]C1(CCC2(C1C(CC2)(C)C)C)C#C.[OH-:10]>>[Li-:20]([OH:10])[OH+]C1(CCC2(C1C(CC2)(C)C)C)C#C 10=20,
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](C1CCCCC1)C(C)C)Cl>>[H:10][C:20](C1CCCCC1)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
[Li:11][C:10]1=CC=CC=C1.[Li][O+:21]=[C:20](CC(C)C)C1=CC=CC=C1.CCCC[O-]>>[Li+:11].[Li][O:21][C:20](CC(C)C)(C1=CC=CC=C1)[C:10]2=CC=CC=C2.CCCC[O-] 10,11=10,20;20,21=21
CCC(CC)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCC(CC)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
CC[N+]1=[C:21](SC(=C1C)CCO)[C:20](CCC(=O)C)(C2=CC=C(C=C2)OC)[O-:10].CC[NH+](CC)CC.CCO.[Br-]>>CC[N+]1=[C-:21]SC(=C1C)CCO.CC(=O)CC[C:20](=[O:10])C1=CC=C(C=C1)OC.CC[NH+](CC)CC.CCO.[Br-] 10=20;20,21=21
[H:20][C:21](C)(C1=CC=CC=C1)[CH:22](C)[O:23]S(=O)(=O)C2=CC=C(C=C2)C.C[O-:10].[Na+]>>[H:20][O:10]C.C[CH:22]=[C:21](C)C1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-:23].[Na+] 10=20;22,23=23;20,21=21,22
CC(C)C1CC(C2=C[C:20](=[O:21])C(CCC12C)(C)CC[C:11](=[CH:10]CO)[O-:12])O.C[OH+][Na]>>CC(C)C1CC(C2=C[C:20]3([CH:10]([C:11](=[O:12])CCC3(CCC12C)C)CO)[O-:21])O.C[OH+][Na] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(CC)CC(C)C.[H:10][Na:11]>>CCC(CC(C)C)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC(C)CCO[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CC(C)CCO[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C(C(C(C(C([CH:20]=[OH+:21])N)O)O)[OH:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-].OS(=O)(=O)[O-].[Cl-]>>C(C1C(C(C([CH:20]([OH+:10]1)[OH:21])N)O)O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].OS(=O)(=O)[O-].[Cl-] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[CH:20]([N-:10]C)[O:21][AlH2]>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[CH:20]=[N:10]C.[O-:21][AlH2] 10=20;20,21=21
CC(C)[OH+:11][Al-:10](OCC1=CC=CC=C1)(OC(C)C)OC(C)C.CC(C)[O-]>>CC(C)[OH:11].CC(C)O[Al:10](OCC1=CC=CC=C1)OC(C)C.CC(C)[O-] 10,11=11
CC1CC(C(C1[CH:20]=[N+:21](C)C2=CC=CC=C2)C(=C[O-:10])C)C.C[NH2+]C1=CC=CC=C1.O>>CC1CC(C2C1[CH:20]([O:10]C=C2C)[N:21](C)C3=CC=CC=C3)C.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.C[CH:11]=[CH2:10].C1=CC=CC=C1>>[H:20][CH2:10][CH+:11]C.OP(=O)(O)[O-:21].C1=CC=CC=C1 10,11=10,20;20,21=21
C[C:22](=[O:23])[CH:21]=[CH2:20].C1CC[C:11](=[CH:10]C1)[O-:12]>>C[C:22](=[CH:21][CH2:20][CH:10]1CCCC[C:11]1=[O:12])[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH+]4C6CCCCC6)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3C6CCCCC6.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(F)(F)F)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.C1=C(O[CH:22]=[C:21]1Br)C(F)(F)F 10=20;20,21=21,22
